US09108932B2
Preparation of methyl 4-(ethoxy(imino)methyl)benzoate hydrochloride
A 2 L, three-necked round bottomed flask equipped with a magnetic stir bar, a temperature probe, addition funnel and nitrogen inlet was charged with methyl 4-cyanobenzoate (100 g, 620 mmol). The methyl 4-cyanobenzoate was dissolved in EtOH (438 mL) and cooled in an ice bath to 0° C. Acetyl chloride (353 mL, 4960 mmol) was added dropwise into the stirring solution over a 2 h period during which time an exotherm from 0° C. to 21° C. was noted. The reaction flask was capped, sealed with Parafilm®, and allowed to stir at 23° C. for 18 h. the resulting white solid was collected by vacuum filtration and washed with EtOH. The filtrate was concentrated until it became turbid and was then cooled in an ice bath. The resulting precipitate was collected by vacuum filtration, rinsed with EtOH, and the filtrate treated as described to give another crop. The solids were dried to give the title compound as a white solid (128 g, 85%): 1H NMR (400 MHz, CDCI3) δ 12.85 (br s, 1H), 12.20 (br s, 1H), 8.49 (m, 2H), 8.23 (m, 2H), 5.00 (q, 2H), 4.00 (s, 3H), 1.72 (t, 3H).

reactant | methyl 4-cyanobenzoate | 620 mmol, 100 g | C(#N)C1=CC=C(C(=O)OC)C=C1 | C9H7NO2
reactant | Acetyl chloride | 4960 mmol, 353 mL | C(C)(=O)Cl | C2H3ClO
solvent | EtOH | 438 mL | CCO | C2H6O
product | methyl 4-(ethoxy(imino)methyl)benzoate hydrochloride | 128 g, 85% | Cl.C(C)OC(C1=CC=C(C(=O)OC)C=C1)=N | InChI=1S/C11H13NO3.ClH/c1-3-15-10(12)8-4-6-9(7-5-8)11(13)14-2;/h4-7,12H,3H2,1-2H3;1H
